US08334301B2
4-(2-fluoropyridin-3-yl)-5-[(2-methylfuran-3-yl)thio]thiophene-2-carbaldehyde
With 5-bromo-4-(2-fluoropyridin-3-yl)thiophene-2-carbaldehyde (250 mg) as a starting material, and using 2-methyl-3-furanthiol (0.114 mL) and potassium carbonate (193 mg), an operation similar to that of Reference Example 1 was performed to give the title compound as a pale-yellow oil (yield 271 mg, yield 97%).

reactant | 5-bromo-4-(2-fluoropyridin-3-yl)thiophene-2-carbaldehyde | 250 mg | BrC1=C(C=C(S1)C=O)C=1C(=NC=CC1)F | C10H5BrFNOS
reactant | 2-methyl-3-furanthiol | 0.114 mL | CC=1OC=CC1S | C5H6OS
reactant | potassium carbonate | 193 mg | C([O-])([O-])=O.[K+].[K+]
product | 4-(2-fluoropyridin-3-yl)-5-[(2-methylfuran-3-yl)thio]thiophene-2-carbaldehyde | yield 271 mg, yield 97% | FC1=NC=CC=C1C=1C=C(SC1SC1=C(OC=C1)C)C=O | C15H10FNO2S2
